US09085586B2
A solution of 8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-ol (2.06 g, 9.99 mmol, 1.00 equiv) in 1,4-dioxane (30 mL) was added DDQ (5.68 g, 25.02 mmol, 2.50 equiv) ar room temperature under nitrogen and the resulting solution was stirred overnight at 90° C. in an oil bath. After cooling to room temperature, the reaction was quenched with saturated aqueous sodium bicarbonate, and extracted with 3×100 mL of dichloromethane. The organic layers were combined, washed with brine, dried over anhydrous sodium sulfate, and concentrated under vacuum to provide 1.8 g (crude) of 8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-3-ol as a yellow solid.

reactant | 8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-ol | 9.99 mmol, 2.06 g, 1.00 equiv | C1=2C=3C(=NC=NC3SC2CCCC1)O | C10H10N2OS
reactant | DDQ | 25.02 mmol, 5.68 g, 2.50 equiv | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5,10,12-hexaen-3-ol | 1.8 g | C1=2C=3C(=NC=NC3SC2C=CC=C1)O | C10H6N2OS
